US04407806
To a 500 ml 3-neck round bottom flask equipped with an addition funnel, septum, thermometer and an argon inlet was added 150 ml of anhydrous diethyl ether and 94 ml of 1.6 molar butyllithium solution (in hexane). The system was cooled to -120° C. and 14.5 ml of 3-bromopyridine in 75 ml of tetrahydrofuran was added over 1 hour. After addition of the 3-bromopyridine, the system was stirred for an additional 45 minutes. At this time, 26.25 gm of 2,4-dichlorobenzaldehyde in 75 ml of tetrahydrofuran was added to the system while still maintaining at temperatures of -120° C. The system was kept at -120° C. for an additional 6 hours after addition of the 2,4-dichlorobenzaldehyde and afterwards allowed to come to room temperature. After 10 hours at room temperature, the system was quenched with saturated ammonium chloride (in water). The system was then adjusted to a pH 2 with concentrated HCl solution. The solution was extracted with diethyl ether. The aqueous solution was made basic with a 50% NaOH solution. The product was extracted with methylene chloride and then dried over sodium sulfate. The methylene chloride was removed by stripping to give 25.75 gm of the 3-pyridyl-2,4-dichlorophenyl-carbinol as tan solid, m.p. 108°-111° C., and listed as compound number 2 in Table I.

reactant | diethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | butyllithium | 1.6 molar, 94 ml | C(CCC)[Li]
reactant | 3-bromopyridine | 14.5 ml | BrC=1C=NC=CC1 | C5H4BrN
reactant | 2,4-dichlorobenzaldehyde | 26.25 gm | ClC1=C(C=O)C=CC(=C1)Cl | C7H4Cl2O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 3-pyridyl-2,4-dichlorophenyl-carbinol | 25.75 gm | N1=CC(=CC=C1)C(O)C1=C(C=C(C=C1)Cl)Cl | C12H9Cl2NO
